US08030438B2
(18) Synthesis of 4,4′-bis(dibutoxyphosphoryl)-[2.2′]-bithiophene
At room temperature, 0.0804 g (0.2 mmols) of 3-(dibutoxyphosphoryl)-5-iodothiophene and 0.0092 g (0.008 mmols) of commercially available tetrakistriphenylphosphine palladium were dissolved in 2 ml of toluene, to which 0.1131 g (0.2 mmols) of 3-(dibutoxyphosphoryl)-5-(tributylstannyl)-thiophene and 0.0036 g (0.04 mmols) of commercially available copper(I) cyanide were added at room temperature. Thereafter, the reaction mixture was heated and stirred under reflux for 2 hours. After the reaction, the reaction mixture was cooled down to room temperature, to which a potassium fluoride aqueous solution was added, followed by stirring for 1 hour. Thereafter, the solid was removed by celite filtration and the filtrate was extracted with ethyl acetate. The organic phase was washed with a saturated saline solution and dried over anhydrous sodium sulfate. The solvent was removed by distilling off under reduced pressure, and the resulting crude product was purified with a PTLC plate (developed with ethyl acetate:hexane=1:2 and ethyl acetate:hexane=1:1) to obtain the specified substance in the form of a white solid at a yield of 0.0881 g (yield: 80%).

reactant | 3-(dibutoxyphosphoryl)-5-iodothiophene | 0.2 mmols, 0.0804 g | C(CCC)OP(=O)(OCCCC)C1=CSC(=C1)I | C12H20IO3PS
reactant | 3-(dibutoxyphosphoryl)-5-(tributylstannyl)-thiophene | 0.2 mmols, 0.1131 g | C(CCC)OP(=O)(OCCCC)C1=CSC(=C1)[Sn](CCCC)(CCCC)CCCC
reactant | copper(I) cyanide | [Cu]C#N
reactant | potassium fluoride | [F-].[K+]
solvent | toluene | 2 ml | C1(=CC=CC=C1)C | C7H8
product | 4,4′-bis(dibutoxyphosphoryl)-[2.2′]-bithiophene | yield: 80% | C(CCC)OP(=O)(OCCCC)C=1C=C(SC1)C=1SC=C(C1)P(=O)(OCCCC)OCCCC | C24H40O6P2S2
